US06291455B1
A mixture of 2-amino-5-methoxy4-(3-morpholinopropoxy)benzamide (4.57 g, 12.25 mmol) and Gold's reagent (2.6 g, 15.89 mmol) in dioxane (35 ml) was heated at reflux for 5 hours. Acetic acid (0.55 ml) and sodium acetate (1.0 g) were added to the reaction mixture which was heated for a further 3 hours. The mixture was cooled to ambient temperature and the volatiles removed by evaporation. The residue was adjusted to pH7 with 2 M sodium hydroxide and then purified on a Diaion (trade mark of Mitsubishi) HP20SS resin column, eluting with methanol (gradient of 0 to 60%) in water. Concentration of the fractions by evaporation gave a precipitate which was collected by filtration and dried under vacuum over phosphorus pentoxide to give 6-methoxy-7-(3-morpholinopropoxy)-3,4-dihydroquinazolin-4-one (3.04 g, 78%) as a white solid.

reactant | 2-amino-5-methoxy4-(3-morpholinopropoxy)benzamide | 12.25 mmol, 4.57 g | NC1=C(C(=O)N)C=C(C(=C1)OCCCN1CCOCC1)OC | C15H23N3O4
reactant | Gold's reagent | 15.89 mmol, 2.6 g | CN(C)C=NC=[N+](C)C.[Cl-]
reactant | Acetic acid | 0.55 ml | C(C)(=O)O | C2H4O2
reactant | sodium acetate | 1.0 g | C(C)(=O)[O-].[Na+]
solvent | dioxane | 35 ml | O1CCOCC1 | C4H8O2
product | 6-methoxy-7-(3-morpholinopropoxy)-3,4-dihydroquinazolin-4-one | 3.04 g, 78% | COC=1C=C2C(NC=NC2=CC1OCCCN1CCOCC1)=O | C16H21N3O4
